US06369076B1
1-(4-Benzyl-cyclohex-1-enyl)-pyrrolidine
A mixture of 5 g of 4-benzyl-cyclohexanone, 3.5 g of pyrrolidine, 500 mL of benzene and 10 mg of p-toluenesulfonic acid monohydrate was heated under a water separator apparatus for 48 h, removing the distillate periodically until there was about 50 mL remaining. The solution was cooled and concentrated to 8 g of an amber liquid. The NMR was consistent with complete conversion to the enamine.

reactant | 4-benzyl-cyclohexanone | 5 g | C(C1=CC=CC=C1)C1CCC(CC1)=O | C13H16O
reactant | pyrrolidine | 3.5 g | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid monohydrate | 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 500 mL | C1=CC=CC=C1 | C6H6
product | 1-(4-Benzyl-cyclohex-1-enyl)-pyrrolidine | C(C1=CC=CC=C1)C1CC=C(CC1)N1CCCC1 | C17H23N
